US04607041
Diethyl 1,2,3,4-tetrahydro-2-hydroxy-6-methyl-4-(3-nitrophenyl)-2-(trifluoromethyl)-3,5-pyridine-dicarboxylate
3-Nitrobenzaldehyde (3.0 g, 20 mmoles), ethyl 3-amino-2-butenoate (2.6 g, 20 mmoles) and ethyl 4,4,4-trifluoro-3-oxobutanoate (2.92 ml, 20 mmoles) were heated at reflux in ethanol (25 ml) for 6 hours. The solvent was removed in vacuo and the residue crystallised by the addition of ether/petroleum ether (60°-80°). The resulting solid was recrystallised from ether/petroleum ether (60°-80°) to give the title compound as colourless crystals (1.9 g) mp 120°-1°.

reactant | 3-Nitrobenzaldehyde | 20 mmoles, 3.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethyl 3-amino-2-butenoate | 20 mmoles, 2.6 g | NC(=CC(=O)OCC)C | C6H11NO2
reactant | ethyl 4,4,4-trifluoro-3-oxobutanoate | 20 mmoles, 2.92 ml | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | Diethyl 1,2,3,4-tetrahydro-2-hydroxy-6-methyl-4-(3-nitrophenyl)-2-(trifluoromethyl)-3,5-pyridine-dicarboxylate | 1.9 g | OC1(NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)C(F)(F)F | C19H21F3N2O7
